US06133271
Following the procedure of Example 97, the reaction of imidazole with 2-chloro-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine gives 2-(imidazol-1-yl)-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 2-chloro-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC=CC=C2 | C13H9ClN4O2S
product | 2-(imidazol-1-yl)-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine | N1(C=NC=C1)C=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC=CC=C2 | C16H12N6O2S
